Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
tramadol
 
Attending: ___
 
Chief Complaint:
Shortness of breath (DVT / PE)
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of aortic dissection, HTN, anxiety, asthma, 
depression and 4mm outpouching of right cavernous ICA who was 
transferred from ___ for DVT/PE on warfarin given need for 
alternative anticoagulation in setting of a cavernous ICA 
aneurysm. He has been noticing increasing leg swelling in the 
left leg and then noticed shortness of breath over the past few 
days. The left leg was getting red as well and painful. The SOB 
was first on movement but then progressed to being SOB at rest. 
He had some slight dull central chest pain when he coughed. He 
started coughing as well in the past couple of days.  
 He presented to ___ because this is progressing 
and was found to have multiple PEs and DVTs. He has normal 
oxygen sats on room air and denies fevers, chills, headache, 
chest pain, n/v/d, abdominal pain. He was transferred here for 
Neurosurgery evaluation in the setting of cerebral aneurysm on 
heparin. He is on Coumadin.  
 Last DVT/PE in ___, no recent surgery, no immobilization, 
no cancer history, no IV lines. He was dancing with his daughter 
when he became short of breath at that time. That was when he 
started warfarin. He states that he is in the ___ INR range 
roughly 80% of the time. In the past month, his INR readings 
prior to admission: 2.1, 2.7, but nothing below 2 in the past 
month.  
 He started smoking when he was ___ years old. Still smoking. 
At most, 1ppd for majority of his life.  
 His father also has a history of DVT/PE. He only had one 
episode. Neither his father nor he has ever been worked up for a 
clotting disorder.  

 
Past Medical History:
aortic dissection  
 Cavernous aneurysm  
 Hypertension  
 asthma  
 anxiety  
 depression  
 emotional/psychological issues  
 Thyroglossal duct cyst s/p removal ___  
 cervical fusion  
 PE/DVT on Coumadin  

 
Social History:
___
Family History:
Father hx of DVT/PE.  
Paternal grandmother with lung cancer.  
Paternal grandfather had rectal cancer (unknown age)  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: T 97.7 PO BP 127 / 82 R Lying HR 62 RR 18 O2Sat 93 Ra  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding  
 EXTREMITIES: no cyanosis, clubbing, trace pitting edema 
bilaterally L >R  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  

DISCHARGE PHYSICAL EXAM:
___ 0733 T 98.4 PO BP 114/77 HR 61 RR 16 O2Sat 94 Ra   
 
GENERAL: Alert and oriented, somnolent in morning, but answering 
questions appropriately, NAD  
HEENT: AT/NC, EOMI, anicteric sclera, pink conjunctiva, MMM  
NECK: supple  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs. Subaceous cyst 
on lower chest. 
LUNGS: Wheezes auscultated bilaterally near end expiration 
(improved from yesterday), breathing comfortably on RA without 
use of accessory muscles. 
ABDOMEN: obese, nondistended, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing, trace pitting edema 
bilaterally L >R, no tenderness behind knee 
PULSES: 2+ DP pulses bilaterally  
NEURO: CN2-12 grossly intact, moving all 4 extremities with 
purpose, no focal deficit
 
Pertinent Results:
Admission Labs: 
___ 10:10PM   NEUTS-47.1 ___ MONOS-7.8 EOS-7.2* 
BASOS-1.0 IM ___ AbsNeut-4.24 AbsLymp-3.27 AbsMono-0.70 
AbsEos-0.65* AbsBaso-0.09*
___ 10:10PM   WBC-9.0 RBC-4.99 HGB-14.1 HCT-43.3 MCV-87 
MCH-28.3 MCHC-32.6 RDW-14.5 RDWSD-46.2
___ 10:10PM   cTropnT-<0.01
___ 10:10PM   GLUCOSE-102* UREA N-15 CREAT-0.9 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-25 ANION GAP-13

Discharge Labs:
___ 06:40AM BLOOD WBC-9.6 RBC-5.21 Hgb-14.6 Hct-45.0 MCV-86 
MCH-28.0 MCHC-32.4 RDW-14.3 RDWSD-45.1 Plt ___
___ 06:40AM BLOOD Glucose-99 UreaN-15 Creat-1.0 Na-141 
K-4.5 Cl-101 HCO3-27 AnGap-13
___ 06:40AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.3

___ 04:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-POS* oxycodn-NEG mthdone-NEG

Echocardiogram (___): 
The left atrial volume index is normal. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF = 60%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). The right 
ventricular free wall thickness is normal. The right ventricular 
cavity is mildly dilated with moderate global free wall 
hypokinesis. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
 
Brief Hospital Course:
___ with history of DVT/PE, aortic dissection, ___ 
___ transferred from ___ where he was found 
to have multiple segmental/subsegmental PEs and DVT while on 
Coumadin. Transferred to ___ for management of his DVT/PE for 
neurosurgical evaluation in the setting of known cerebral 
aneurysm.

ACUTE/ACTIVE PROBLEMS:
======================
#DVT/PE:
Pt presented with L leg swelling and new shortness of breath. 
Evidence of occlusive thrombus in the dital left femoral and 
popliteal veins with extension into the upper calf deep veins 
seen on ___ at OSH on ___. Multiple bilateral segmental and 
subsegemntal arterial branch pulmonary emboli involving all 
lobes of the lungs on CTA chest at OSH on ___. Had a prior 
DVT/PE in ___, based on history, unprovoked. Upon 
evaluation at ___, pt was HDS. Trop and proBNP are WNL. EKG 
was w/o evidence of right heart strain. INR was 2.4. We called 
___'s PCP office to verify INR levels. His INR was 2.0-2.2 over 
the last three months (only monthly checks). Upon arrival, he 
was started on heparin therapy ggt. Hematology was consulted and 
recommended switching to rivaroxaban given concern for coumadin 
resistance/failure. He was started on loading dosage of 
rivaroxaban 15 mg BID on the evening of ___ for a ___fter which he should take rivaroxaban 20 mg daily. Clotting 
disorder is high on the ddx, but no diagnosis on prior work up. 
We requested medical records from ___ as patient 
reported having multiple labs checked at ___ Hematology.

Clinically he was well appearing and his shortness of breath 
improved. He was breathing comfortably on room air. An 
echocardiogram was obtained, which did show right ventricular 
cavity is mildly dilated with moderate global free wall 
hypokinesis and mild pulmonary artery systolic hypertension. We 
suspect that this may be related to lung disease/COPD/smoking as 
well as history of PE.

He was scheduled for follow up in ___ clinic at ___.

#Cavernous ICA aneurysm:
4 mm laterally oriented outpouching of the right cavernous 
internal carotid artery seen on ___ CTA head. Neurosurgery 
was consulted. They recommended a non-urgent CTA/MRA for 
evaluation in the future. They were okay with anticoagulation 
plan.

#Wheezing:
Patient had expiratory wheezing on exam. Most likely related to 
underlying COPD given history of lung disease, chronic cough and 
wheezing. Nebulizers given, with some effect. Wheezing has 
improved and he is breathing comfortably on room air. Outpatient 
work up of should be considered.

#HTN:
He received fractionated metoprolol while inpatient. Restarted 
on home dose upon discharge.

#Fluid density:
1.7x1.9cm nodule in anterior subcutaneous tissues of lower 
chest, probably sebaceous cyst seen on OSH CT. Consistent 
physical exam. Patient reports has had for years.

Transitional Issues
======================
NEW MEDICATION:
Rivaroxaban 15mg BID for 21 days started on ___, then 
rivaroxaban 20mg daily.

[] Follow up with ___ Hematology is scheduled with Drs. 
___ ___.
[] Obtain outpatient hematology work up performed at ___ 
___. We did send a release of records/request for records, 
but did not receive records during the patient's 
hospitalization.
[] Consider outpatient malignancy work up. Consider EGD for 
thickening of esophagus seen on CT scan and reflux sx.
[] Consider work up for pulmonary disease. Pt should have PFTs.
[] Repeat echo in 3 months. F/u RV function.
[] Pt should have follow up with neurosurgery with repeat head 
imaging in the future.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 6 mg PO DAILY16 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice per 
day Disp #*42 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DAILY 
To be started after you complete 21 days of 15 mg twice per day 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing  
4.  Metoprolol Succinate XL 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Acute left lower extremity deep venous thrombosis
Bilateral subsegmental and segmental pulmonary emboli

Secondary diagnoses: 
Hypertension
Chronic obstructive lung disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

What brought you into the hospital?
-You came to the hospital because your breathing was worse and 
because your leg was swollen.

What happened while you were in the hospital?
-You were found to have a clot in your leg and clots in your 
lungs.
-You were started on a blood thinner medication called heparin, 
which was then switched to an oral (by mouth) medication. 
-You also had a picture of your heart. This showed that the 
right side of your heart is slightly dilated (or enlarged). This 
is likely due to your lung disease, smoking and history of lung 
clots. 

What should you do when you leave the hospital?
-You should keep taking your new medication called rivaroxaban. 
You will take this medication twice a day for the first 21 days 
and then start taking the medication once per day. You should 
take this medicine with food. 
-You should stop taking warfarin.
-Please follow up with your doctor appointments. We have 
scheduled you appointments and they are listed below.

It was a pleasure taking care of you.

Your ___ team
 
Followup Instructions:
___